US05801263
25.8 ml (12.9 mmol) of potassium diphenylphosphide solution in THF (manufacturer: Aldrich) are added dropwise at -5° C. to a solution of 3.09 g (13.2 mmol) of diethyl 4-fluorophenylphosphonate, prepared as described in Phosphorus Sulfur 1980, 9(2), 197.202, in 20.0 ml of THF. After stirring for 19 hours at 23° C., the mixture is hydrolyzed by adding 20 ml of degassed water and stirring for 15 min. After extraction with ethyl acetate, and drying the organic phase over Na2SO4, the mixture is concentrated on a rotary evaporator. 4.20 g of diethyl 4-diphenylphosphinophenylphosphonate (82% of theory) are obtained in the form of a pale yellow oil.

reactant | potassium diphenylphosphide | 12.9 mmol, 25.8 ml | C1=CC=C(C=C1)[P-]C2=CC=CC=C2.[K+]
reactant | diethyl 4-fluorophenylphosphonate | 13.2 mmol, 3.09 g | FC1=CC=C(C=C1)P(OCC)(OCC)=O | C10H14FO3P
reactant | water | 20 ml | O | H2O
solvent | THF | C1CCOC1 | C4H8O
solvent | Phosphorus Sulfur | [S].[P]
solvent | THF | 20.0 ml | C1CCOC1 | C4H8O
product | diethyl 4-diphenylphosphinophenylphosphonate | 4.20 g, 82% | C1(=CC=CC=C1)P(C1=CC=C(C=C1)P(OCC)(OCC)=O)C1=CC=CC=C1 | C22H24O3P2
